US08710000B2
Step 4: 17-{3-[(2-Benzyloxycarbonylethyl)tert-butoxycarbonylamino]propionylamino}heptadecanoic acid tert-butyl ester
3-[(2-Benzyloxycarbonylethyl) tert-butoxycarbonylamino]propionic acid (0.17 g, 0.48 mmol) was dissolved in DMF (2 mL) and HOBt (0.065 g, 0.48 mmol) and EDAC (0.093 g, 0.48 mmol) were added. The mixture was stirred for 30 min., and DIEA (0.083 mL, 0.48 mmol) was added and 17-aminoheptadecanoic acid tert-butyl ester (0.15 g, 0.44 mmol) dissolved in THF (3 mL)+DMF (0.5 mL) was added. The reaction was stirred for 2 days. The reaction was concentrated and the residue was dissolved in AcOEt (50 mL) and washed with 0.2 N HCl (2×15 mL). The organic phase was dried over MgSO4 and concentrated under vacuum. The product was purified by flash chromatography (Silica) eluting with AcOEt/Heptane (1:1, 7:3, 8:2) then DCM, DCM:methanol (8:2) and 5% AcOH in DCM. The appropriate fractiones were pooled and concentrated under vacuum. The residue was dissolved in DCM. Silica was added and the product was concentrated onto the silica under vacuum. The silica was used in another flash chromatography, eluting with AcOEt/heptane (3:7 and 1:1). The appropriate fractiones were pooled and concentrated under vacuum to yield 135 mg.

reactant | 3-[(2-Benzyloxycarbonylethyl) tert-butoxycarbonylamino]propionic acid | 0.48 mmol, 0.17 g | C(C1=CC=CC=C1)OC(=O)CCN(CCC(=O)O)C(=O)OC(C)(C)C | C18H25NO6
reactant | HOBt | 0.48 mmol, 0.065 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 0.48 mmol, 0.093 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIEA | 0.48 mmol, 0.083 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 17-aminoheptadecanoic acid tert-butyl ester | 0.44 mmol, 0.15 g | C(C)(C)(C)OC(CCCCCCCCCCCCCCCCN)=O | C21H43NO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 17-{3-[(2-Benzyloxycarbonylethyl)tert-butoxycarbonylamino]propionylamino}heptadecanoic acid tert-butyl ester | C(C)(C)(C)OC(CCCCCCCCCCCCCCCCNC(CCN(C(=O)OC(C)(C)C)CCC(=O)OCC1=CC=CC=C1)=O)=O | C39H66N2O7
